US04339449
A solution of benzyl 7-phenoxyacetamido-8-oxo-5-thia-1,3-diazabicyclo[4,2,0]octane-2-carboxylate (5.86 g.) and 2,6-lutidine (3.20 ml.) in methylene chloride (29 ml.) was cooled to -78° C. and trifluoromethanesulfonic anhydride (2.44 ml.) was added thereto over a period of 3 minutes. The resultant solution was allowed to warm to 0° C. over a period of 75 minutes and kept at 0° C. for additional 10 minutes. The reaction mixture was poured into chilled dilute phosphoric acid and extracted with ethyl acetate (150 ml.). The extract was washed with dilute phosphoric acid, a dilute aqueous solution of sodium chloride, a saturated aqueous solution of sodium bicarbonate, a dilute aqueous solution of sodium chloride and a saturated aqueous solution of sodium chloride, successively. Drying and removal of the solvent left an amorphous solid (7.2 g.), which was chromatographed on silica gel (14 g.) with a mixed solvent of ethyl acetate and methylene chloride (2 to 25% by volume) as an eluent to give benzyl 7-phenoxyacetamido-8-oxo-3-trifluoromethanesulfonyl-5-thia-1,3-diazabicyclo[4,2,0]octane-2-carboxylate (4.49 g.).

reactant | benzyl 7-phenoxyacetamido-8-oxo-5-thia-1,3-diazabicyclo[4,2,0]octane-2-carboxylate | 5.86 g | O(C1=CC=CC=C1)CC(=O)NC1C2SCNC(N2C1=O)C(=O)OCC1=CC=CC=C1 | C21H21N3O5S
reactant | 2,6-lutidine | 3.20 ml | N1=C(C=CC=C1C)C | C7H9N
reactant | trifluoromethanesulfonic anhydride | 2.44 ml | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | phosphoric acid | P(O)(O)(O)=O | H3O4P
solvent | methylene chloride | 29 ml | C(Cl)Cl | CH2Cl2
product | benzyl 7-phenoxyacetamido-8-oxo-3-trifluoromethanesulfonyl-5-thia-1,3-diazabicyclo[4,2,0]octane-2-carboxylate | 4.49 g | O(C1=CC=CC=C1)CC(=O)NC1C2SCN(C(N2C1=O)C(=O)OCC1=CC=CC=C1)S(=O)(=O)C(F)(F)F | C22H20F3N3O7S2
